US06897210B2
1,1-(Azodicarbonyl)dipiperidine (355 mg, 1.4 mmol) was added in portions to a mixture of 44-chloro-2-fluoroanilino)-7-hydroxy-methoxyquinazoline (I 50 mg, 0.47 mmol), (prepared as described for the starting material in Example 2), 2-(cyclopentyloxy)ethanol (91 mg, 0.7 mmol), (U.S. Pat. No. 4,515,814), and tributylphosphine (284 mg, 1.4 mmol) in methylene chloride (6 ml) at 0° C. The mixture was then allowed to warm to ambient temperature and stirred for 3.5 hours. Ether (3 ml) was added and the insolubles were removed by filtration and the volatiles were removed from the filtrate by evaporation. The residue was dissolved in acetone and 1M ethereal hydrogen chloride (0.6 ml) was added. The mixture was left to stand for 60 hours and the precipitate was collected by filtration, washed with acetone and dried to give 44-chloro-2-fluoroanilino)-72-cyclopentyl xyethoxy)-4-methoxyquinazoline hydrochloride (130 mg, 60%).

reactant | 1,1-(Azodicarbonyl)dipiperidine | 1.4 mmol, 355 mg | C1CCN(CC1)C(=O)/N=N/C(=O)N2CCCCC2 | C12H20N4O2
reactant | 7-hydroxy-methoxyquinazoline | 0.47 mmol, 50 mg | OC1=CC=C2C=NC(=NC2=C1)OC | C9H8N2O2
reactant | 2-(cyclopentyloxy)ethanol | 0.7 mmol, 91 mg | C1(CCCC1)OCCO | C7H14O2
reactant | tributylphosphine | 1.4 mmol, 284 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | Ether | 3 ml | CCOCC | C4H10O
product | 4-methoxyquinazoline hydrochloride | 130 mg, 60% | Cl.COC1=NC=NC2=CC=CC=C12 | InChI=1S/C9H8N2O.ClH/c1-12-9-7-4-2-3-5-8(7)10-6-11-9;/h2-6H,1H3;1H
